US04962103
(2S,4R)-1-p-Nitrobenzyloxycarbonyl-2-iodomethyl-4-benzoyloxypyrrolidine (1.05 g) was dissolved in 10 ml of dimethylformamide, and a solution of 1.40 g of 15% methylmercaptan sodium salt in water was added thereto, followed by stirring at room temparature for 30 minutes under a nitrogen stream. The reaction mixture was diluted with ethyl acetate, washed with water, dried over anhydrous sodium sulfate and distilled to remove the solvent. The residue was purified by silica gel thin layer chromatography to obtain (2S,4R)-1-p-nitrobenzyloxycarbonyl-2-methylthiomethyl-4-benzoyloxypyrrolidine.

reactant | (2S,4R)-1-p-Nitrobenzyloxycarbonyl-2-iodomethyl-4-benzoyloxypyrrolidine | 1.05 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@H](C2)OC(C2=CC=CC=C2)=O)CI)C=C1 | C20H19IN2O6
reactant | methylmercaptan sodium salt | 1.40 g | [Na].CS
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S,4R)-1-p-nitrobenzyloxycarbonyl-2-methylthiomethyl-4-benzoyloxypyrrolidine | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@H](C2)OC(C2=CC=CC=C2)=O)CSC)C=C1 | C21H22N2O6S
